US07612114B2
(R)-6-{2-{Ethyl{3-fluoro-4-{2-{methyl[(S)-tetrahydrofuran-2-ylmethyl]amino}ethoxy}benzyl}amino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (15 mg) and 2-chloro-N-methyl-N-[(S)-tetrahydrofuran-2-ylmethyl]acetamide (10 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (6.9 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[ethyl(3-fluoro-4-hydroxybenzoyl)amino]-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 15 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC(=C(C=C1)O)F)=O | C32H36FNO6
reactant | 2-chloro-N-methyl-N-[(S)-tetrahydrofuran-2-ylmethyl]acetamide | 10 mg | ClCC(=O)N(C[C@H]1OCCC1)C | C8H14ClNO2
product | (R)-6-{2-{Ethyl{3-fluoro-4-{2-{methyl[(S)-tetrahydrofuran-2-ylmethyl]amino}ethoxy}benzyl}amino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 6.9 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)O)CC1=CC(=C(C=C1)OCCN(C[C@H]1OCCC1)C)F | C35H45FN2O5
